US07098283B2
Step 1. Synthesis of 4-vinylacetamidoethyl phenol.
A 1000 mL 3-neck, round bottom flask connected with a reflux condenser and a drying tube, is charged with 250 mL of methylene chloride, 5.48 grams (0.04 mole) 4-aminoethylphenol and 4.04 grams (0.04 mole) triethylamine. The contents are chilled with an ice bath. Through a dropping funnel, 4.18 grams (0.04 mole) of vinylacetyl chloride is added into the flask over a period of 30 minutes. The ice bath is then removed and the contents are continuously stirred overnight. The mixture is then filtered and then condensed using a rotavapor. HPLC analysis indicates only one major product. The product is then passed through silica gel chromatography to give a final purified product with a yield of at least 80 percent. The product is identified by NMR and Mass Spectroscopy.

reactant | 4-aminoethylphenol | 0.04 mole, 5.48 grams | NCCC1=CC=C(C=C1)O | C8H11NO
reactant | triethylamine | 0.04 mole, 4.04 grams | C(C)N(CC)CC | C6H15N
reactant | vinylacetyl chloride | 0.04 mole, 4.18 grams | C(=C)CC(=O)Cl | C4H5ClO
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
product | 4-vinylacetamidoethyl phenol | yield of at least 80 percent | C(=C)CC(=O)NCCC1=CC=C(C=C1)O | C12H15NO2
